US07423030B2
13.2. 1-Chloro-5,7-dimethoxyphthalazine
1 g (4.9 mmol) of 5,7-dimethoxy-2H-phthalazin-1-one and 10 mL of phosphoryl chloride are heated at 80° C. for 2 hours. After cooling to room temperature, the reaction medium is poured dropwise into 50 mL of water and the mixture is then basified with 6N sodium hydroxide solution and extracted with dichloromethane. The organic phase is washed with water and with brine, dried over anhydrous sodium sulfate and then evaporated under reduced pressure. 1 g of a beige-coloured solid is obtained (91% yield).

reactant | 5,7-dimethoxy-2H-phthalazin-1-one | 4.9 mmol, 1 g | COC1=C2C=NNC(C2=CC(=C1)OC)=O | C10H10N2O3
reactant | phosphoryl chloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 1-Chloro-5,7-dimethoxyphthalazine | 1 g, 91% yield | ClC1=NN=CC2=C(C=C(C=C12)OC)OC | C10H9ClN2O2
